.options savecurrents

.param Rin_value=0.1k
.param R1_value=100k
.param R2_value=20k
.param Rc_value=0.5k
.param Re_value=0.1k
.param Rout_value=0.1k
.param Ci_value=1000u
.param Cb_value=5000u
.param Co_value=1995u

.csparam Rin_value={Rin_value}
.csparam R1_value={R1_value}
.csparam R2_value={R2_value}
.csparam Rc_value={Rc_value}
.csparam Re_value={Re_value}
.csparam Rout_value={Rout_value}
.csparam Ci_value={Ci_value}
.csparam Cb_value={Cb_value}
.csparam Co_value={Co_value}

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)
Rin in in2 {Rin_value}

* input coupling capacitor
Ci in2 base {Ci_value}

* bias circuit
R1 vcc base {R1_value}
R2 base 0 {R2_value}

* gain stage
Q1 coll base emit BC547A
Rc vcc coll {Rc_value}
Re emit 0 {Re_value}

* bypass capacitor
Cb emit 0 {Cb_value}


* output stage
Q2 0 coll emit2 BC557A
Rout emit2 vcc {Rout_value}

* output coupling capacitor
Co emit2 out {Co_value}

* load
RL out 0 8


.end

.control

*OP analysis
op

let vce=v(coll)-v(emit)
let vbe=v(base)-v(emit)

let vec=v(emit2)
let veb=v(emit2)-v(coll)

print all

* time analysis
tran 1e-5 1e-2

hardcopy vo1.ps vdb(coll)

* frequency analysis
ac dec 10 10 100MEG

hardcopy vo1f.ps vdb(coll)

hardcopy vo2f.ps vdb(out)

let gain = v(out)[40]/v(in)[40]

*Treshold 
let threshold = vecmax(vdb(out))-3

meas ac lco WHEN vdb(out) = threshold RISE = 1
meas ac uco WHEN vdb(out) = threshold CROSS = LAST

let bandwith = uco-lco

*input impedance in ohm
let Z_in1 = v(in2)[40]/vin#branch[40]/(-1)

*Cost and Merit
let cost = (Rin_value + R1_value + R2_value + Re_value + Rc_value + Rout_value)/1000 + (Ci_value + Cb_value + Co_value)*10^6 + 0.1*2
let merit = abs(gain)*bandwith/(cost*lco)


echo  "data_TAB"
print abs(Z_in1) abs(gain) lco uco bandwith cost merit
echo  "data_END"


quit
.endc
 
